US05438052
5-(Benzyloxy)-2-(hydroxymethyl)-4(1H)-pyrimidinone (2.3 g) are dissolved in 20 ml of absolute methanol. The solution is treated with 4.24 g (40 mmol) of sodium carbonate and 10 ml of methyl iodide and stirred at room temperature for 4 days. Now, 400 ml of dichloromethane and 100 ml of saturated sodium chloride solution are added thereto, the organic phase is separated, dried over sodium sulphate and concentrated. The residue is chromatographed of 100 g of silica gel (0.063-0.2 mm). The two products are eluted in succession with dichloromethane/methanol (9:1 v/v). There are obtained 1.2 g of 5-(benzyloxy)-2-(hydroxymethyl)-3-methyl-4(3H)-pyrimidinone as white crystals from ether, m.p. 83°-84° C. 5-(Benzyloxy)-2-(hydroxymethyl)-1-methyl-4(1H)-pyrimidinone also forms white crystals from ether, m.p. 172°-173° C. 0.6 g is obtained.

reactant | 5-(Benzyloxy)-2-(hydroxymethyl)-4(1H)-pyrimidinone | 2.3 g | C(C1=CC=CC=C1)OC=1C(N=C(NC1)CO)=O | C12H12N2O3
reactant | sodium carbonate | 40 mmol, 4.24 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | methyl iodide | 10 ml | CI | CH3I
reactant | sodium chloride | 100 ml | [Cl-].[Na+]
solvent | methanol | 20 ml | CO | CH4O
solvent | dichloromethane | 400 ml | ClCCl | CH2Cl2
product | 5-(benzyloxy)-2-(hydroxymethyl)-3-methyl-4(3H)-pyrimidinone | 1.2 g | C(C1=CC=CC=C1)OC=1C(N(C(=NC1)CO)C)=O | C13H14N2O3
